US07598257B2
To a solution of (2E)-3-cyclopentylacrylic acid (1.3 g, 9.3 mmol) in DCM (65 mL) at 0° C. was added oxalyl chloride (3.1 mL, 37 mmol), dropwise. The resulting solution was stirred at 0° C. for 40 minutes, then at room temperature for 2 hours. The volatiles were evaporated to afford (2E)-3-cyclopentylacryloyl chloride as a colorless liquid. A portion of this (2E)-3-cyclopentylacryloyl chloride (0.75 g, 4.7 mol) was dissolved in methanol (10 mL) and the resulting solution was stirred for 2 hours. The solvent was evaporated to afford the product (700 mg, 96%).

reactant | (2E)-3-cyclopentylacrylic acid | 9.3 mmol, 1.3 g | C1(CCCC1)/C=C/C(=O)O | C8H12O2
reactant | oxalyl chloride | 37 mmol, 3.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 65 mL | C(Cl)Cl | CH2Cl2
product | (2E)-3-cyclopentylacryloyl chloride | C1(CCCC1)/C=C/C(=O)Cl | C8H11ClO
